US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (0.75 g) as starting compound, potassium carbonate (2.0 g) and 6-bromo-1-(2-naphthyl)-1-hexanone (0.80 g) were reacted and treated in the same manner as in Example 172 to give 0.40 g of 4-amino-5-chloro-N-((1-(6-(2-naphthyl)-6-oxohexyl)piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 0.75 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-bromo-1-(2-naphthyl)-1-hexanone | 0.80 g | BrCCCCCC(=O)C1=CC2=CC=CC=C2C=C1 | C16H17BrO
product | 4-amino-5-chloro-N-((1-(6-(2-naphthyl)-6-oxohexyl)piperidin-4-yl)methyl)-2-methoxybenzamide | 0.40 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCC(=O)C2=CC3=CC=CC=C3C=C2)C=C1Cl)OC | C30H36ClN3O3
